US06384234B1
Preparation of N-(5-Amino-2-chloro-4-fluorophenyl)-1-chloromethanesulfonamide
3 g (0.0095 mol) of N-(5-amino-2-chloro-4-fluorophenyl)-N[(chloromethyl)sulfonyl]acetamide were dissolved in 30 mL of ethanol and 30 mL of 25% sodium hydroxide solution. The mixture was stirred for 3 hours at 50° C. and then cooled to room temperature. 6 N hydrochloric acid was added with stirring and cooling until the solution had a pH of 5-6. The suspension was further cooled to 0-5° C., filtered, washed with water and dried to yield 2.4 g (92%) of the title compound as a solid melting at 103.5-105.5° C. Recrystallization from toluene raised the melting point to 105-106° C.

reactant | N-(5-amino-2-chloro-4-fluorophenyl)-N[(chloromethyl)sulfonyl]acetamide | 0.0095 mol, 3 g | NC=1C(=CC(=C(C1)N(C(C)=O)S(=O)(=O)CCl)Cl)F | C9H9Cl2FN2O3S
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 30 mL | [OH-].[Na+]
product | N-(5-Amino-2-chloro-4-fluorophenyl)-1-chloromethanesulfonamide | 2.4 g, 92% | NC=1C(=CC(=C(C1)NS(=O)(=O)CCl)Cl)F | C7H7Cl2FN2O2S
